US07230031B2
Dibenzyl[7-(4-benzyloxy-3-iodophenoxy)-6-methylindan-4-yl]amine
To a solution of 7-(4-benzyloxy-3-iodophenoxy)-6-methylindan-4-ylamine (3.80 g) in N,N-dimethylformamide (15 mL) were added benzyl bromide (2.30 mL) and potassium carbonate (2.67 g), and the mixture was stirred under an argon atmosphere at room temperature for 2 days. Adding water, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=10/1) to give the title compound (4.50 g).

reactant | 7-(4-benzyloxy-3-iodophenoxy)-6-methylindan-4-ylamine | 3.80 g | C(C1=CC=CC=C1)OC1=C(C=C(OC=2C(=CC(=C3CCCC23)N)C)C=C1)I | C23H22INO2
reactant | benzyl bromide | 2.30 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 2.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | Dibenzyl[7-(4-benzyloxy-3-iodophenoxy)-6-methylindan-4-yl]amine | 4.50 g | C(C1=CC=CC=C1)N(C1=C2CCCC2=C(C(=C1)C)OC1=CC(=C(C=C1)OCC1=CC=CC=C1)I)CC1=CC=CC=C1 | C37H34INO2
